US07253192B2
A] rac-2-Methyl-2-{2-methyl-4-[1-methyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester
In analogy to the procedure described in example 24A], rac-6-(4-trifluoromethoxy-phenyl)-hex-5-yn-2-ol (example 31E]) and 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (described in WO 02/092590) yielded the title compound as yellow oil.

reactant | rac-6-(4-trifluoromethoxy-phenyl)-hex-5-yn-2-ol | FC(OC1=CC=C(C=C1)C#CCCC(C)O)(F)F | C13H13F3O2
reactant | 2-(4-hydroxy-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)O)C)=O | C13H18O4
product | rac-2-Methyl-2-{2-methyl-4-[1-methyl-5-(4-trifluoromethoxy-phenyl)-pent-4-ynyloxy]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)OC(CCC#CC1=CC=C(C=C1)OC(F)(F)F)C)C)C)=O | C26H29F3O5
